Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
Severe epigastric and chest pain 
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
Ms. ___ is a ___ female with hx of arrhythmia, known heart 
murmur, and cholelithiasis s/p cholecystectomy on ___ who 
presents as a transfer for epigastric and substernal chest pain 
from ___.  

The patient recently underwent a laparoscopic cholecystectomy at 
___ for cholelithiasis diagnosed incidentally during evaluation 
for nephrolithiasis. Was having intermittent nausea, so 
underwent elective cholecystectomy on ___. Tolerated the 
procedure well and recovered without difficulty. Since ___ 
___, has had intermittent nausea, vomiting and nonbloody 
diarrhea. Denies any fevers/chills. Initially without abdominal 
pain. On ___ at 10 am developed acute onset ___ epigastric 
pain with radiation to her mid chest. Associated with shortness 
of breath. Has never had this kind of pain before. Pain started 
after she was vomiting. Denies BRBPR or melena. No hematemesis. 
Denies fevers. She presented to ___ for further 
evaluation.  

While at ___, labs were notable for Sodium 137, Cre 0.8, 
Tbili 1.5, Dbili 0.5, AST/ALT 270/164, AP 103, Trop I 0.11, 
Lipase 345, WBC 8.3, H/H 13.2/39.3. RUQ U/S with borderline 
intrahepatic and extrahepatic bile ducts without definite 
filling defect. She was given ertapenem 1g IV x 1, morphine IV x 
1, and transferred to ___ for evaluation by possible ERCP to 
look for retained stone.  

In the ED, initial vitals were: 98.1 57 135/72 14 100% RA  
 - Exam notable for: epigastric tenderness to palpation  
 - Labs notable for: lactate 0.8, Cre 0.8, K 3.3, trop <0.01, 
ALT/AST 221/227, AP 113, Tbili 0.7, WBC 4.5  
 - Patient was given: 1L NS x 1, started on LR at 100cc/hr, and 
given morphine 4mg IV x 1, and ondansetron 4mg IV x 1  
 - Vitals prior to transfer: 3 97.8 58 124/71 15 98% RA  
 
Upon arrival to the floor, patient reports that overall her pain 
has improved. Continues to report ___ epigastric, SSCP. 
Associated with nausea. No BRBPR or melena. No shortness of 
breath.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI  
 
Past Medical History:
 Hypertension  
 Hyperlipidemia  
 Hypothyroidism  
 Palpitations 
 POTS followed by Dr. ___ at ___ q6 months
 Cardiac murmur  
 Nephrolithiasis  
 s/p cholecystectomy for gallstones  (performed at ___ 
 
Social History:
___
Family History:
 Brother with lung cancer  
 Brother with melanoma of the eye requiring resection  
 Son died from ?colon/liver cancer in his ___ 
 
Physical Exam:
===========================
ADMISSION PHYSICAL 
===========================

Vital Signs: 97.7PO 151 / 88 58 16 98 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, dry mucous membranes, PERRL  
 Neck: Supple. JVP not elevated. no LAD  
 CV: Bradycardic, II/VI systolic murmur heard across precordium  

 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, epigastric tenderness and chest wall tenderness 
to palpation; no rebound or guarding; well-healed abdominal 
incisions.  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII grossly intact; moving all four extremities; 
sensation intact  

===========================
DISCHARGE PHYSICAL 
===========================

Vitals: 97.5 ___ 18 100 RA 
General: Alert, oriented, anxious appearing 
HEENT: Sclerae anicteric  
CV: RRR, II/VI systolic murmur heard across precordium  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, epigastric discomfort and chest wall tenderness 
to palpation; no rebound or guarding; well-healed abdominal 
incisions.   
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 
Pertinent Results:
=====================================
ADMISSION LABS 
=====================================

___ 11:14PM BLOOD WBC-4.5 RBC-3.75* Hgb-11.4 Hct-33.3* 
MCV-89 MCH-30.4 MCHC-34.2 RDW-12.8 RDWSD-41.8 Plt ___
___ 11:14PM BLOOD Neuts-47.7 ___ Monos-17.6* 
Eos-2.7 Baso-0.2 Im ___ AbsNeut-2.15 AbsLymp-1.42 
AbsMono-0.79 AbsEos-0.12 AbsBaso-0.01
___ 11:14PM BLOOD Plt ___
___ 11:14PM BLOOD Glucose-94 UreaN-12 Creat-0.8 Na-141 
K-3.3 Cl-106 HCO3-22 AnGap-16
___ 11:14PM BLOOD Glucose-94 UreaN-12 Creat-0.8 Na-141 
K-3.3 Cl-106 HCO3-22 AnGap-16
___ 11:14PM BLOOD ALT-221* AST-227* AlkPhos-113* 
TotBili-0.7
___ 11:14PM BLOOD Lipase-77*
___ 11:14PM BLOOD cTropnT-<0.01
___ 06:20AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 11:14PM BLOOD Albumin-3.7
___ 06:20AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative HAV Ab-Negative IgM HAV-Negative
___ 06:20AM BLOOD HCV Ab-Negative
___ 11:20PM BLOOD Lactate-0.8

___ 01:43AM URINE Color-Yellow Appear-Clear Sp ___
___ 01:43AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-2* pH-6.5 Leuks-TR
___ 01:43AM URINE RBC-1 WBC-1 Bacteri-FEW Yeast-NONE Epi-1
___ 01:43AM URINE CastHy-1*
___ 01:43AM URINE Mucous-RARE

=====================================
DISCHARGE LABS 
=====================================

___ 07:25AM BLOOD WBC-5.3 RBC-4.08 Hgb-12.4 Hct-36.6 MCV-90 
MCH-30.4 MCHC-33.9 RDW-12.8 RDWSD-41.5 Plt ___
___ 06:15AM BLOOD Neuts-36.4 ___ Monos-13.0 Eos-4.6 
Baso-0.7 Im ___ AbsNeut-1.57* AbsLymp-1.95 AbsMono-0.56 
AbsEos-0.20 AbsBaso-0.03
___ 07:25AM BLOOD Glucose-78 UreaN-12 Creat-0.7 Na-141 
K-3.6 Cl-105 HCO3-26 AnGap-14
___ 07:25AM BLOOD ALT-94* AST-22 AlkPhos-106* TotBili-0.5
___ 07:25AM BLOOD Calcium-9.3 Phos-3.9 Mg-2.4

=====================================
PROCEDURES/STUDIES/IMAGING 
=====================================

___ CXR
Lungs fully expanded and clear.  Normal cardiomediastinal and 
hilar
silhouettes.  No pneumothorax or pneumomediastinum.  Blunting of 
the posterior
pleural sulci could be due to very small pleural effusions, 
probably unrelated
to acute circumstances.

___ ___ 
-Status post cholecystectomy.  No biliary ductal dilatation.  No 
filling
defects are seen within the common duct.
-Mild left renal collecting system dilatation of unknown 
chronicity or
etiology.  Correlate with prior imaging and history.  Consider 
short interval
follow up ultrasound in a few days to evaluate for transient 
dilatation.

=====================================
MICRO 
=====================================

___ 1:43 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
__________________________________________________________
___ 11:42 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 11:14 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
 
Brief Hospital Course:
***TRANSITIONAL ISSUES***
#To follow up with surgeon at ___ regarding possible need for 
ERCP given concern for biliary stone/obstruction at 
presentation (although ___ unrevealing in this regard)
#To follow up with PCP regarding incidental ___ finding of 
"Mild left renal collecting system dilatation of known 
chronicity or etiology. Correlate with prior imaging and 
history. Consider short interval follow up ultrasound in a few 
days to evaluate for transient dilatation." 
#Repeat labs on ___ for CBC and LFTs
#Started on triamcinolone cream for contact dermatitis due to 
EKG pads 
#Discharged with Miralax PRN constipation given no bowel 
movement during hospitalization  
#Hep B and Hep A non immune

BRIEF SUMMARY: 

___ is a ___ year old women with a history of elective 
cholecystectomy on ___ who was recovering well when on 
___ described a sudden onset of diarrhea and vomiting. This 
occurred in the setting of sick contacts with a similar GI 
illness. On ___ she then developed acute onset ___ chest 
and epigastric pain shortly after vomiting which was pleuritic 
in nature, lasted for hours, and was associated with some 
dyspnea. 

She presented to ___ where labs indicated pancreatitis. 
She was transferred to ___ for ERCP evaluation. 

Upon arrival to ___, her abdominal pain improved and her WBC 
count and LFTs spontaneously decreased. She tolerated a clear 
liquid diet. We presumed a spontaneously cleared CBD stone as 
the etiology of the pancreatitis. She may have also had a 
gastroenteritis earlier in her course given her sick contacts, 
it is unclear if this somehow pre-disposed her to stone 
formation. ___ did not show evidence any evidence of residual 
CBD stones. Additionally, given her chest pain, CXR, EKG, and 
troponin x 2 were negative for an acute cardiopulmonary process. 


Patient was instructed to follow up with her PCP and gallbladder 
surgeon for follow up as above. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 100 mg PO BID 
2. Levothyroxine Sodium 25 mcg PO DAILY 
3. NIFEdipine CR 90 mg PO DAILY 
4. Atorvastatin 20 mg PO DAILY 

 
Discharge Medications:
1.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
RX *polyethylene glycol 3350 17 gram/dose 17g powder(s) by mouth 
daily Refills:*0 
2.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID 
RX *triamcinolone acetonide 0.1 % Aplpy to afffected area twice 
a day Refills:*0 
3.  Atorvastatin 20 mg PO DAILY  
4.  Levothyroxine Sodium 25 mcg PO DAILY  
5.  Metoprolol Succinate XL 100 mg PO BID  
6.  NIFEdipine CR 90 mg PO DAILY  
7.Outpatient Lab Work
K85.9 Acute pancreatitis, unspecified

To be collected on ___
CBC w/ diff, AST, ALT, AlkPhos, TBili

Please fax results to: Attn: ___  ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
-pancreatitis presumed secondary to a spontaneously passed CBD 
stone

Secondary diagnosis: 
-Hypertension 
-History of POTS 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___, 

==================================================
Why did you come to the hospital? 
==================================================
-You were having severe chest and abdominal pain

==================================================
What happened at the hospital? 
==================================================
-Your abdominal pain is most likely from inflammation of your 
pancreas ("pancreatitis"). This was probably caused by a stone 
in your bile duct that spontaneously passed.  
-We discussed that even though your gallbladder was removed, 
there is still a small chance to form stones in the main bile 
duct, the tube that allows bile to flow from your liver to the 
intestinal tract.  
-An imaging study called ___ did not show any additional 
stones in the bile duct, but did show a minor abnormality in 
your urinary tract which can be followed up on a non-urgent 
basis 

==================================================
What needs to happen when you leave the hospital? 
==================================================
-On ___ please call your PCP and surgeon.
-Follow up with your surgeon at ___ to determine the need for 
any additional studies or procedures to reduce the chances of 
this happening in the future.  You may be referred for a 
procedure known as ERCP. 
-Follow up with your primary care doctor for labs and repeat 
imaging of the urinary tract.

It was a pleasure taking care of you! 

Sincerely, 

Your ___ medical team 
 
Followup Instructions:
___